US04824834
To a suspension of sodium methoxide (5.56 g) in benzene (200 ml) is added dropwise with stirring a mixture of ethyl formate (8.14 g) and phenylacetonitrile (11.7 g) under ice cooling. After 30 minutes, the ice bath is taken off. After reacting for 3 hours, ice water is added to the reaction mixture, and the aqueous layer is separated. The organic layer is washed with 0.5 N sodium hydroxide solution (50 ml×3), and the aqueous layer and the washings are combined and adjusted to pH 3-4 with conc. hydrochloric acid. The mixture is stirred under ice cooling for 20 minutes, and the resulting precipitate is separated by filtration and washed with water to give α-formylphenylacetonitrile. The product is used in the subsequent procedure without further purification.

reactant | sodium methoxide | 5.56 g | C[O-].[Na+]
reactant | ethyl formate | 8.14 g | C(=O)OCC | C3H6O2
reactant | phenylacetonitrile | 11.7 g | C1(=CC=CC=C1)CC#N | C8H7N
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | α-formylphenylacetonitrile | C(=O)C(C#N)C1=CC=CC=C1 | C9H7NO
